US07776847B2
N1-(4-methylbenzo[d]isothiazol-3-yl)propane-1,3-diamine (100 mg, 0.45 mmol) was dissolved in anhydrous methylene chloride with diisopropylethylamine (0.12 mL, 0.63 mmol). The mixture was cooled in an ice-bath under nitrogen and a solution of 3-trifluoromethylbenzenesulfonyl chloride (0.09 mL, 0.54 mmol) in methylene chloride (5 mL) was added drop-wise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and then washed successively with saturated sodium bicarbonate solution and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by prep-scale reverse phase high performance liquid chromatography to yield N-(3-(4-methylbenzo[d]isothiazol-3-ylamino)propyl)-3-(trifluoromethyl)benzenesulfonamide (23 mg). 1H NMR (300 MHz, DMSO-d6): 7.75 (d, 1H), 7.30 (m, 2H), 7.25 (m, 2H), 6.92 (t, 1H), 6.28 (t, 1H), 3.22 (t, 2H), 2.98 (t, 2H), 2.81 (s, 3H), 2.15 (t, 2H), 1.80 ppm (m, 2H). MW=429 confirmed by LC-MS, tr=3.92 min (Method E) MH+=430.

reactant | N1-(4-methylbenzo[d]isothiazol-3-yl)propane-1,3-diamine | 0.45 mmol, 100 mg | CC1=CC=CC2=C1C(=NS2)NCCCN | C11H15N3S
reactant | diisopropylethylamine | 0.63 mmol, 0.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-trifluoromethylbenzenesulfonyl chloride | 0.54 mmol, 0.09 mL | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-methylbenzo[d]isothiazol-3-ylamino)propyl)-3-(trifluoromethyl)benzenesulfonamide | 23 mg | CC1=CC=CC2=C1C(=NS2)NCCCNS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F | C18H18F3N3O2S2
